US09255110B2
To a solution of 2-chloro-thieno[3,2-d]pyrimidine-7-carbaldehyde (0.6 g) in a mixture of tert-butanol/tertrahydrofuran/water (1/1/1, 45 mL) was added sulfamic acid (1.0 g) followed by a solution of sodium chlorite (0.9 g) and potassium dihydrogen phosphate (3.0 g) in water (10 mL) and the resulting mixture was stirred for 1 hour. The reaction mixture was then diluted with ethyl acetate; the organic layer was separated and washed with brine, dried over anhydrous sodium sulfate, filtered and evaporated under reduced pressure. The residue was triturated with ethyl acetate and the solid was collected by filtration to give 0.5 g of 2-chloro-thieno[3,2-d]pyrimidine-7-carboxylic acid.

reactant | 2-chloro-thieno[3,2-d]pyrimidine-7-carbaldehyde | 0.6 g | ClC=1N=CC2=C(N1)C(=CS2)C=O | C7H3ClN2OS
reactant | sulfamic acid | 1.0 g | S(N)(O)(=O)=O | H3NO3S
reactant | sodium chlorite | 0.9 g | Cl(=O)[O-].[Na+]
reactant | potassium dihydrogen phosphate | 3.0 g | P(=O)(O)(O)[O-].[K+]
solvent | tert-butanol | C(C)(C)(C)O | C4H10O
solvent | water | 10 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 45 mL | O | H2O
product | 2-chloro-thieno[3,2-d]pyrimidine-7-carboxylic acid | 0.5 g | ClC=1N=CC2=C(N1)C(=CS2)C(=O)O | C7H3ClN2O2S
